US08278328B2
Description 119. 2-Methyl-4-[(methyloxy)methyl]phenol. (D119)
To a solution of 4-[(methyloxy)methyl]-1-({[4-(methyloxy)phenyl]methyl}oxy)-2-nitrobenzene D118 (1.57 g, 5.18 mmol) in DCM (80 mL) was added trifluoroacetic acid (3.99 mL, 51.80 mmol). After 1 hr the mixture was washed with water (3×25 mL) and then extracted with 10% aq potassium carbonate solution (3×20 mL). The combined extracts were back washed with diethyl ether (20 mL) and then the pH was adjusted to 1 with 2N HCl, the mixture was extracted with DCM (3×25 mL), the combined extracts were washed with water (25 mL) and brine (25 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with 5-40% EtOAc in isohexane to afford the title compound as a bright yellow oil. 0.72 g, 76% 1H NMR δ (CDCl3): 3.41 (3H, s), 4.42 (2H, d), 7.15 (1H, d, J=8.4 Hz), 7.56 (1H, m), 8.08 (1H, d).

reactant | 4-[(methyloxy)methyl]-1-({[4-(methyloxy)phenyl]methyl}oxy)-2-nitrobenzene | COCC1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)[N+](=O)[O-] | C16H17NO5
reactant | trifluoroacetic acid | 51.80 mmol, 3.99 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-4-[(methyloxy)methyl]phenol | CC1=C(C=CC(=C1)COC)O | C9H12O2
